US05962682
Reaction with p-tert-butylbenzenesulphonyl chloride in pyridine/toluene at room temperature yielded pure 4-tert-butyl-N-[3-(2-tetrahydropyranyloxyethoxy)-2-methoxy-phenoxy)-phenyl]-benzenesulphonamide. MS: Mt /e=555.

reactant | p-tert-butylbenzenesulphonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | pyridine toluene | N1=CC=CC=C1.C1(=CC=CC=C1)C
product | benzenesulphonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
